US05912256
(2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(7-methoxynaphth-2-yl)piperidine-1-yl]-2-propanol
Beginning with 0.334 gm (1.77 mMol) (S)-(+)-4-(oxiranylmethoxy)-1H-indole and 0.455 gm (1.77 mMol) of 4-hydroxy-4-(7-methoxynaphth-2-yl)piperidine, 0.570 gm (72%) of the title compound was recovered as a white solid by the procedure described in Example 9.

reactant | (S)-(+)-4-(oxiranylmethoxy)-1H-indole | 1.77 mMol, 0.334 gm | O1[C@@H](C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | 4-hydroxy-4-(7-methoxynaphth-2-yl)piperidine | 1.77 mMol, 0.455 gm | OC1(CCNCC1)C1=CC2=CC(=CC=C2C=C1)OC | C16H19NO2
product | (2S)-(-)-1-(4-indolyloxy)-3-[4-hydroxy-4-(7-methoxynaphth-2-yl)piperidine-1-yl]-2-propanol | 0.570 gm, 72% | N1C=CC2=C(C=CC=C12)OC[C@H](CN1CCC(CC1)(C1=CC2=CC(=CC=C2C=C1)OC)O)O | C27H30N2O4
